US06211215B1
In substantially the same manner as in Working Example 8, 2-phenylimidazole was allowed to react with 4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butyl methanesulfonate to give 2-[(E)-2-phenylethenyl]-4-[4-[4-(2-phenyl-1-imidazolyl) butyl]phenoxymethyl]oxazole. The yield was 40%. Recrystallization from ethyl acetate-isopropyl ether gave colorless prisms, mp 85-86° C.

reactant | 2-phenylimidazole | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | 4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butyl methanesulfonate | CS(=O)(=O)OCCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C23H25NO5S
product | 2-[(E)-2-phenylethenyl]-4-[4-[4-(2-phenyl-1-imidazolyl) butyl]phenoxymethyl]oxazole | yield was 40% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)C1=CC=CC=C1 | C31H29N3O2
